US04340730
N6 -[2-(4-methylimidazol-5-ylmethylthio)ethyl]adenosine(formula I of Chart A: R1 is hydrogen, and R2 is 4-Methyl-5-[(2-aminomethyl)-thiomethyl]-imidazole)
5.0 g of 6-chloropurine riboside (0.0179 moles) 4.6 g of 4-methyl-5-[(2 aminoethyl)-thiomethyl]-imidazole (0.019 moles), and 8.78 ml of triethylamine (0.063 moles) are refluxed overnight in 100 ml of ethanol. 15 ml of solvent are then removed with nitrogen gas. The crystals formed therefrom are filtered and washed with ethanol. The crystals are then recrystallized from ethanol and washed with diethyl ether.

reactant | 6-chloropurine riboside | 0.0179 moles, 5.0 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 4-methyl-5-[(2 aminoethyl)-thiomethyl]-imidazole | 0.019 moles | CC=1N=CNC1CSCCN | C7H13N3S
reactant | triethylamine | 0.063 moles, 8.78 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N6 -[2-(4-methylimidazol-5-ylmethylthio)ethyl]adenosine | CC=1N=CNC1CSCCNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H23N7O4S
